US04016274
Following the procedure of Example 36 but starting from 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-1-isoindolinone (4.32 g.) and 1-(but-3-en-1-yl)-piperazine (7 g.) in acetonitrile (25 cc.), 3-[4-(but-3-en-1-yl)-1-piperazinyl]-carbonyloxy-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (1.4 g.) melting at 142° C is obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-1-isoindolinone | 4.32 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
reactant | acetonitrile | 25 cc | C(C)#N | C2H3N
product | 1-(but-3-en-1-yl)-piperazine | 7 g | C(CC=C)N1CCNCC1 | C8H16N2
